US09376443B2
1-(6-Azidomethylpyridin-2-yl)pyrrolidin-2-one
A solution of 1-(6-bromomethylpyridin-2-yl)pyrrolidin-2-one (10.19 g, 39.94 mol) containing triphenylphosphine oxide impurity in DMF (80 mL) was treated with sodium azide (2.60 g, 39.94 mmol), stirred for 18 h and partitioned between EtOAc and water. The organic phase was separated and the aqueous phase re-extracted with EtOAc (×2). The combined organic extracts were dried (MgSO4) and concentrated in vacuo to give the title compound as a yellow oil, contaminated with triphenylphosphine oxide; used in the next step without further purification; LC-MS retention time 2.19 min, (M+H)+ 218.

reactant | 1-(6-bromomethylpyridin-2-yl)pyrrolidin-2-one | 39.94 mol, 10.19 g | BrCC1=CC=CC(=N1)N1C(CCC1)=O | C10H11BrN2O
reactant | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | sodium azide | 39.94 mmol, 2.60 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 1-(6-Azidomethylpyridin-2-yl)pyrrolidin-2-one | N(=[N+]=[N-])CC1=CC=CC(=N1)N1C(CCC1)=O | C10H11N5O
